US07476399B2
(R)-methyl 2-(3-chloro-4-methoxybenzamido)-4-methylpentanoate
Prepared in a similar manner to example 4 using 3-chloro-4-methoxy benzoic acid and D-leucine methyl ester hydrochloride. MS (M+H, 314.10).

reactant | 3-chloro-4-methoxy benzoic acid | ClC=1C=C(C(=O)O)C=CC1OC | C8H7ClO3
reactant | D-leucine methyl ester hydrochloride | Cl.COC([C@H](N)CC(C)C)=O
product | (R)-methyl 2-(3-chloro-4-methoxybenzamido)-4-methylpentanoate | ClC=1C=C(C(=O)N[C@@H](C(=O)OC)CC(C)C)C=CC1OC | C15H20ClNO4
